US08222245B2
2-[(1-Methylethyl)oxy]-5-[3-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-1,2,4-oxadiazol-5-yl]benzonitrile hydrochloride
1,1-Dimethylethyl-7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (Preparation 43) (735 mg, 1.55 mmol) was dissolved in 4M HCl in dioxane and the solution stirred for 1 h. The title compound was filtered off as a white solid and dried in a vacuum oven (462 mg, 1.13 mmol). δH (d6DMSO, 400 MHz): 9.24 (2H, brs), 8.51 (1H, d), 8.40 (1H, dd), 7.95 (1H, d), 7.92 (1H, dd), 7.57 (1H, d), 7.45 (1H, d), 4.98 (1H, septet), 3.28-3.18 (8H, m), 1.39 (6H, d). MS (ES): C22H22N4O2 requires 374; found 375 [M+H]+.

reactant | 1,1-Dimethylethyl-7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 1.55 mmol, 735 mg | CC(C)(C)C1CN(CCC2=C1C=CC(=C2)C2=NOC(=N2)C2=CC(=C(C=C2)OC(C)C)C#N)C(=O)[O-]
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[(1-Methylethyl)oxy]-5-[3-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-1,2,4-oxadiazol-5-yl]benzonitrile hydrochloride | Cl.CC(C)OC1=C(C#N)C=C(C=C1)C1=NC(=NO1)C1=CC2=C(CCNCC2)C=C1 | InChI=1S/C22H22N4O2.ClH/c1-14(2)27-20-6-5-18(12-19(20)13-23)22-25-21(26-28-22)17-4-3-15-7-9-24-10-8-16(15)11-17;/h3-6,11-12,14,24H,7-10H2,1-2H3;1H
